US09260441B2
Step F: 1-(4-Ethoxy-6-methyl-2-pyridyl)piperazine hydrochloride
tert-Butyl 4-(4-ethoxy-6-methyl-2-pyridyl)piperazine-1-carboxylate (141 mg, 0.44 mmol) was dissolved in a mixture of DCM (5 ml) and trifluorocrotonic acid (5 ml) and left standing at room temperature for two hours. The mixture was concentrated under reduced pressure, the residue was dissolved in THF, evaporated again, dissolved again in THF. Hydrochloric acid (4N in dioxane) was added to precipitate the product, which was collected by filtration, washed with diethylether and dried under reduced pressure to give 115 mg (quantitative) MS (multi-mode) m/z=222.2 [M+H]+.

reactant | tert-Butyl 4-(4-ethoxy-6-methyl-2-pyridyl)piperazine-1-carboxylate | 0.44 mmol, 141 mg | C(C)OC1=CC(=NC(=C1)C)N1CCN(CC1)C(=O)OC(C)(C)C | C17H27N3O3
reactant | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | trifluorocrotonic acid | 5 ml | FC(/C=C/C(=O)O)(F)F | C4H3F3O2
product | 1-(4-Ethoxy-6-methyl-2-pyridyl)piperazine hydrochloride | Cl.C(C)OC1=CC(=NC(=C1)C)N1CCNCC1 | InChI=1S/C12H19N3O.ClH/c1-3-16-11-8-10(2)14-12(9-11)15-6-4-13-5-7-15;/h8-9,13H,3-7H2,1-2H3;1H
